US04523942
185 parts of trichloroethylene are introduced into a suspension of 180 parts of the sodium salt of methyl 3-hydroxybenzoate in 200 parts of ethylene glycol monoethyl ether in an autoclave, and the mixture is stirred for 2 hours at 150° C. The solvent is then stripped off under reduced pressure, the viscous residue is taken up in 300 parts of methylene chloride and the solution is filtered in the presence of active charcoal and is chromatographed over neutral alumina. After removing the methylene chloride under reduced pressure from the whole eluate, the residue is distilled through a Vigreux column at 125°-131° C./0.6 mbar, giving methyl 3-(1',2'-dichlorovinyloxy)-benzoate, of nD25 =1.5419.

reactant | trichloroethylene | ClC=C(Cl)Cl | C2HCl3
reactant | sodium | [Na] | Na
reactant | methyl 3-hydroxybenzoate | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | ethylene glycol monoethyl ether | C(C)OCCO | C4H10O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 3-(1',2'-dichlorovinyloxy)-benzoate | ClC(=CCl)OC=1C=C(C(=O)OC)C=CC1 | C10H8Cl2O3
